US04410458
6-(2-phenoxyacetamido)-2-methyl-2-bromomethylpenam-3-carboxylic acid (429 mg.) was suspended in dry benzene (10 cc), and pyridine (400 mg.) and trimethylsilychloride (5 cc) were added thereto. The mixture was stirred for 1.5 hours at room temperature and pyridine (400 mg.) was added thereto. The mixture was heated under reflux for 3 hours, mixed with ethyl acetate (30 cc). washed with dilute phosphoric acid and further with an aqueous solution saturated with sodium chloride, dried and then concentrated. A small amount of ethyl acetate was added to the residue and the precipitate was collected by filtration to yield crystals (250 mg.) of 7-(2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid, m.p. 170.5°-172° C.

reactant | 6-(2-phenoxyacetamido)-2-methyl-2-bromomethylpenam-3-carboxylic acid | 429 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(CBr)C)C(=O)O)C1=O | C16H17BrN2O5S
reactant | pyridine | 400 mg | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 400 mg | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 30 cc | C(C)(=O)OCC | C4H8O2
solvent | benzene | 10 cc | C1=CC=CC=C1 | C6H6
product | 7-(2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylic acid | 250 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C16H16N2O5S
